US09340556B2
To a solution of N,N′-methanediylidenebis(propan-2-amine) (307 ml, 1981 mmol) in t-BuOH (227 ml, 2377 mmol) at r.t. was added copper(I) chloride (1.961 g, 19.81 mmol). The reaction was stirred at room temperature for 24 h and the resulting mixture was distilled under reduced pressure to afford (E)-tert-butyl N,N′-diisopropylcarbamimidate (279 g, 1393 mmol, 70.3% yield) as a colorless liquid. 1H NMR (400 MHz, CHLOROFORM-d4) δ ppm 1.04 (d, J=−6.06 Hz, 6 H) 1.08 (d, J=6.57 Hz, 6 H) 1.46 (s, 9 H) 2.98-3.19 (m, 1 H) 3.25 (m, 1 H) 3.64 (s, 1 H)

reactant | N,N′-methanediylidenebis(propan-2-amine) | 1981 mmol, 307 ml | C(=NC(C)C)=NC(C)C | C7H14N2
reactant | t-BuOH | 2377 mmol, 227 ml | CC(C)(C)O | C4H10O
catalyst | copper(I) chloride | 19.81 mmol, 1.961 g | [Cu]Cl
product | (E)-tert-butyl N,N′-diisopropylcarbamimidate | 1393 mmol, 279 g, 70.3% yield | C(C)(C)N\C(\OC(C)(C)C)=N/C(C)C | C11H24N2O
